US07582644B2
iv) 2-[(2-Fluoro-3-methoxybenzyl)thio]pyrimidine-4,6-diol
The subtitle compound was prepared as a white solid by the method of Example 39 step i) using 1-(bromomethyl)-2-fluoro-3-methoxybenzene (4.5 g), 2-mercaptopyrimidine-4,6-diol (2.96 g) and potassium hydroxide (1.15 g). Yield: 5.0 g.

reactant | 1-(bromomethyl)-2-fluoro-3-methoxybenzene | 4.5 g | BrCC1=C(C(=CC=C1)OC)F | C8H8BrFO
reactant | 2-mercaptopyrimidine-4,6-diol | 2.96 g | SC1=NC(=CC(=N1)O)O | C4H4N2O2S
reactant | potassium hydroxide | 1.15 g | [OH-].[K+]
product | 2-[(2-Fluoro-3-methoxybenzyl)thio]pyrimidine-4,6-diol | FC1=C(CSC2=NC(=CC(=N2)O)O)C=CC=C1OC | C12H11FN2O3S
